US08981111B2
To a solution of 2-[({[(1-methyl-1H-imidazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyrimidin-4-amine (200 mg, 0.65 mmol) in 1,4-dioxane (10 mL) were sequentially added triethylamine (0.18 mL, 1.30 mmol) and chloroformic acid pentyl ester (0.38 mL, 2.60 mmol). After stirring at room temperature for 19 h, the mixture was concentrated in vacuo, diluted in ethyl acetate (50 mL), washed with water (20 mL), dried over MgSO4 and concentrated to dryness in vacuo. Purification on silica gel afforded pentyl{2-[({[(1-methyl-1H-imidazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyrimidin-4-yl}carbamate [26 mg, yield 9%; HPLC/MS: m/z=423 (M+H); log P(HCOOH)=2.66].

reactant | 2-[({[(1-methyl-1H-imidazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyrimidin-4-amine | 0.65 mmol, 200 mg | CN1C=NC=C1C(C1=CC=CC=C1)=NOCC1=NC=CC(=N1)N | C16H16N6O
reactant | triethylamine | 1.30 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | chloroformic acid pentyl ester | 2.60 mmol, 0.38 mL | C(CCCC)OC(=O)Cl | C6H11ClO2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | pentyl{2-[({[(1-methyl-1H-imidazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyrimidin-4-yl}carbamate | 26 mg, yield 9% | C(CCCC)OC(NC1=NC(=NC=C1)CON=C(C1=CC=CC=C1)C1=CN=CN1C)=O | C22H26N6O3
